US05466689
Trans-7-ethyl-1-methoxy-10a-phenyl-4,6,6a,10a-tetrahydro-7H-indolo[3,4-gh][1.4]benzoxazine
Trans-7-ethyl-4,6,6a,8,9,10a-hexahydro-1-methoxy-10a-phenyl-7H-indolo[3,4-gh][1.4]benzoxazin-8-one (664 mg, 1.83 mmol) was reduced with LAH. The residue thus obtained was subjected to a silica gel column chromatography, eluting with n-hexane-ethyl acetate (3:1), to afford 74 mg (12%) of the title compound as a crude crystalline product (m.p.194-196 dec.)

reactant | Trans-7-ethyl-4,6,6a,8,9,10a-hexahydro-1-methoxy-10a-phenyl-7H-indolo[3,4-gh][1.4]benzoxazin-8-one | 1.83 mmol, 664 mg | C(C)N1C(CO[C@]2([C@H]1CC=1C3=C2C(=CC=C3NC1)OC)C1=CC=CC=C1)=O | C22H22N2O3
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | Trans-7-ethyl-1-methoxy-10a-phenyl-4,6,6a,10a-tetrahydro-7H-indolo[3,4-gh][1.4]benzoxazine | 74 mg, 12% | C(C)N1C=CO[C@]2([C@H]1CC=1C3=C2C(=CC=C3NC1)OC)C1=CC=CC=C1 | C22H22N2O2
